US06573289B1
Production of 1-(1H-Imidazol-4-yl)-1-(6-methoxynaphthalen-2-yl)-2-methyl-1-propanol
(1H-Imidazol-4-yl)-(6-methoxynaphthalen-2-yl)ketone (6.50 g) was dissolved in THF (120 ml), and the solution was cooled to −10° C. To the solution was slowly added dropwise a solution of isopropyl magnesium chloride in THF (2.0 M; 38.7 ml), and the mixture was stirred at −10° C. for 30 min. To the reaction mixture was added saturated aqueous solution of ammonium chloride and water. The mixture was extracted with ethyl acetate. The extract was washed with saturated aqueous solution of sodium chloride, dried and concentrated. The residue was purified by silica gel column chromatography (eluent, chloroform:methanol=20:1→10:1). Recrystallization from ethyl acetate gave the titled compound (5.04 g) as a colorless crystalline powder.

reactant | (1H-Imidazol-4-yl)-(6-methoxynaphthalen-2-yl)ketone | 6.50 g | N1C=NC(=C1)C(=O)C1=CC2=CC=C(C=C2C=C1)OC | C15H12N2O2
reactant | isopropyl magnesium chloride | C(C)(C)[Mg]Cl
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | water | O | H2O
solvent | THF | 120 ml | C1CCOC1 | C4H8O
solvent | THF | 2.0 M, 38.7 ml | C1CCOC1 | C4H8O
product | 1-(1H-Imidazol-4-yl)-1-(6-methoxynaphthalen-2-yl)-2-methyl-1-propanol | 5.04 g | N1C=NC(=C1)C(C(C)C)(O)C1=CC2=CC=C(C=C2C=C1)OC | C18H20N2O2
